US08487106B2
In a reaction vessel, 2-[4-(2-{4-[1-(2-ethoxy-ethyl)-1H-benzoimidazol-2-yl]-piperidin-1-yl}-ethyl)-phenyl]-2-methyl-propionic acid methylester (2.3 g) prepared in the Example 14, sodium hydroxide (0.6 g) and ethylalcohol (13 mL) were introduced, and the mixture was reacted at 50-55□ for 3 hours. Distilled water (20 mL) was added thereto, and acetic acid was added to control the pH to 7. Ethylacetate (50 mL) was added thereto, and the mixture was stirred to separate a layer. The separated organic layer was condensed under reduced pressure. And, butanol (9 mL) was added thereto, and dissolved by heating. And then, it was cooled to precipitate crystals, and the crystals were filtered under reduced pressure to obtain 2-[4-(2-{4-[1-(2-ethoxy-ethyl)-1H-benzoimidazol-2-yl]-piperidin-1-yl}-ethyl)-phenyl]-2-methyl-propionic acid (2.0 g, yield 90%, HPLC purity 99% or more).

reactant | 2-[4-(2-{4-[1-(2-ethoxy-ethyl)-1H-benzoimidazol-2-yl]-piperidin-1-yl}-ethyl)-phenyl]-2-methyl-propionic acid methylester | 2.3 g | COC(C(C)(C)C1=CC=C(C=C1)CCN1CCC(CC1)C1=NC2=C(N1CCOCC)C=CC=C2)=O | C29H39N3O3
reactant | sodium hydroxide | 0.6 g | [OH-].[Na+]
reactant | ethylalcohol | 13 mL | C(C)O | C2H6O
reactant | water | 20 mL | O | H2O
solvent | butanol | 9 mL | C(CCC)O | C4H10O
solvent | Ethylacetate | 50 mL | C(C)OC(C)=O | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[4-(2-{4-[1-(2-ethoxy-ethyl)-1H-benzoimidazol-2-yl]-piperidin-1-yl}-ethyl)-phenyl]-2-methyl-propionic acid | 2.0 g, yield 90% | C(C)OCCN1C(=NC2=C1C=CC=C2)C2CCN(CC2)CCC2=CC=C(C=C2)C(C(=O)O)(C)C | C28H37N3O3
